US04342320
A solution of 30 g of nopinone ([α]D20 =+39.90; c=8 in ethanol), 29 of pyrrolidine and 0.4 g of p-toluenesulfonic acid in 150 ml anhydrous benzene was heated at reflux for 40 h under nitrogen atmosphere in a vessel fitted with a water separator. After evaporation of the solvent and distillation of the residue, there were obtained 39.5 g (95% yield) of 1-(6,6-dimethylnorpin-2-en-2-yl)-pyrrolidine having b.p. 117°-118° C./10 Torr.

reactant | nopinone | 30 g | CC1(C2CCC(=O)C1C2)C | C9H14O
reactant | pyrrolidine | N1CCCC1 | C4H9N
reactant | p-toluenesulfonic acid | 0.4 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | water | O | H2O
solvent | benzene | 150 ml | C1=CC=CC=C1 | C6H6
product | 1-(6,6-dimethylnorpin-2-en-2-yl)-pyrrolidine | 39.5 g, 95% yield | CC1(C2CC=C(C1C2)N2CCCC2)C | C13H21N
